US07514461B2
2,2,7,8-Tetramethyl-5-(3-nitro-phenyl) chroman-6-ol
A mixture of 5-bromo-2,2,7,8-tetramethyl-chroman-6-ol (400 mg, 1.40 mmol), 3-nitrophenyl boronic acid (300 mg, and Pd(PPh3)4 (100 mg, 5% mol) in glycol dimethyl ether (DME, 20 mL) and 2M Na2CO3 solution (5 mL) was stirred at 120° C. for 3-5 h. After pouring it into water, the mixture was extracted with EtOAc. The EtOAc layer was washed with water, dried and concentrated. The residue was purified by silica gel column chromatography eluting with 10% EtOAc in hexane to give a yellow solid (140 mg). 1H NMR (300 MHz, CDCl3): 8.25-8.16 (μ, 2H), 6.76 (μ, 2H), 4.13 (σ, 1H, OH), 2.27 (μ, 2H), 2.21, 2.19 (2σ, 6H), 1.68 (μ, 2H), 1.32 (σ, 6H) ppm. 13C NMR (75 MHz, CDCl3) δ:167.36, 148.79, 145.85, 143.34, 138.27, 136.95, 130.10, 126.51, 125.56, 122.76, 122.29, 115.84, 73.10, 32.83, 27.07, 26.71, 12.95, 12.24, 12.14 ppm. MS: m/z: 328 (MH+).

reactant | 5-bromo-2,2,7,8-tetramethyl-chroman-6-ol | 1.40 mmol, 400 mg | BrC1=C2CCC(OC2=C(C(=C1O)C)C)(C)C | C13H17BrO2
reactant | 3-nitrophenyl boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | water | O | H2O
solvent | glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2M, 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2,7,8-Tetramethyl-5-(3-nitro-phenyl) chroman-6-ol | 140 mg | CC1(OC2=C(C(=C(C(=C2CC1)C1=CC(=CC=C1)[N+](=O)[O-])O)C)C)C | C19H21NO4
